US04935413
A solution of ethanethiol (1.24 g; 20 mmol) in 1,2-dichloroethane (12 ml) was dropwise added to a solution of methacryloyl isocyanate (2.22 g; 20 mmol) in 1,2-dichloroethane (14 ml) in 10 minutes under nitrogen stream while cooling with ice. After completion of the addition, the reaction mixture was stirred for 30 minutes. The solvent was removed by evaporation under reduced pressure to give ethyl N-methacryloylthiocarbamate (2.17 g) as a pale yellow liquid. Viscosity, 150 cp.

reactant | ethanethiol | 20 mmol, 1.24 g | C(C)S | C2H6S
reactant | methacryloyl isocyanate | 20 mmol, 2.22 g | C(C(=C)C)(=O)N=C=O | C5H5NO2
reactant | 1,2-dichloroethane | 12 ml | ClCCCl | C2H4Cl2
reactant | 1,2-dichloroethane | 14 ml | ClCCCl | C2H4Cl2
product | ethyl N-methacryloylthiocarbamate | 2.17 g | C(C(=C)C)(=O)NC(OCC)=S | C7H11NO2S
